US04324796
Sodium 2-[3-(3-trifluoromethylphenyl)propyl]oxirane-2-carboxylate
A solution of 28 g of 2-[3-(3-trifluoromethylphenyl)propyl]oxirane-2-carboxylic acid ethyl ester in 50 ml of tetrahydrofuran is added dropwise to a solution of 92.6 ml of 1 N sodium hydroxide solution and 50 ml of tetrahydrofuran at room temperature. After a clear solution has formed, the solution is concentrated to a viscous mass in vacuo. The mass is dissolved in 70 ml of tetrahydrofuran, the small amount of undissolved material is filtered off, and 200 ml of methylene chloride are added dropwise to the clear filtrate. The voluminous precipitate is filtered off and stirred again with 200 ml of diethyl ether, the mixture is filtered and the solid product is dried over calcium chloride. The title compound of m.p. 64° to 70° C., which contains 2 mols of water of crystallization, is converted into the form containing no water of crystallization, of m.p. >170° C., when dried over phosphorus pentoxide in vacuo (yield: 22.8 g).

reactant | 2-[3-(3-trifluoromethylphenyl)propyl]oxirane-2-carboxylic acid ethyl ester | 28 g | C(C)OC(=O)C1(OC1)CCCC1=CC(=CC=C1)C(F)(F)F | C15H17F3O3
reactant | sodium hydroxide | 1 N, 92.6 ml | [OH-].[Na+]
reactant | water | 2 mols | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Sodium 2-[3-(3-trifluoromethylphenyl)propyl]oxirane-2-carboxylate | FC(C=1C=C(C=CC1)CCCC1(OC1)C(=O)[O-])(F)F.[Na+] | InChI=1S/C13H13F3O3.Na/c14-13(15,16)10-5-1-3-9(7-10)4-2-6-12(8-19-12)11(17)18;/h1,3,5,7H,2,4,6,8H2,(H,17,18);/q;+1/p-1
